US06867205B2
5-Aminomethyl-2-cyclopropyl-6-phenyl-pyrimidin-4-ylamine
The title compound, MS: m/e=240.1 (M+), was prepared from cyclopropanecarboxamidine and 2-benzylidene-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | cyclopropanecarboxamidine | C1(CC1)C(=N)N | C4H8N2
reactant | 2-benzylidene-malononitrile | C(C1=CC=CC=C1)=C(C#N)C#N | C10H6N2
product | 5-Aminomethyl-2-cyclopropyl-6-phenyl-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=CC=CC=C1)C1CC1)N | C14H16N4
